US04556711
5-[4-(4-Aminobenzamido)phenyl]-2(1H)-pyrazinone
5-[4-(4-Nitrobenzamido)phenyl]-2(1H)-pyrazinone (1.0 g) was added to a vigorously stirred suspension of palladium on charcoal (0.3 g, 5%) in ethanol (20 ml) followed by cyclohexene (20 ml). The reaction was heated under reflux for 24 hours, hot dimethylformamide was then added and the mixture was filtered. Evaporation of the filtrate gave a solid residue which was extracted with boiling glacial acetic acid, collected and dried to give the title compound (0.6 g, m.p. >300° C.; δ(DMSO-d6) 7.99 and 8.09 (2H, 2s, pyrazinone ring protons), 9.7 and 9.9 (2H, 2 broad s, =CH--NH--CO and --NH--CO).

reactant | 5-[4-(4-Nitrobenzamido)phenyl]-2(1H)-pyrazinone | 1.0 g | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=CC(NC2)=O)C=C1 | C17H12N4O4
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[4-(4-Aminobenzamido)phenyl]-2(1H)-pyrazinone | NC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=CC(NC2)=O)C=C1 | C17H14N4O2
